US07419984B2
To a solution of diethyl malonate (320 mg, 2 mmol) in tetrahydrofuran (15 ml) was added a solution of potassium tert-butoxide in tetrahydrofuran (1 M, 2.2 ml, 2.2 mmol). After stirring for 10 minutes, 4-bromonitrobenzene (404 mg, 2 mmol) was added. After stirring for 12 hours, the reaction was quenched by addition of saturated aqueous ammonium chloride solution (50 ml) and extracted with ethyl acetate (2×50 ml). The combined extracts were dried over anhydrous magnesium sulfate and concentrated under reduced pressure to provide crude 2-(4-nitro-phenyl)-malonic acid diethyl ester.

reactant | diethyl malonate | 2 mmol, 320 mg | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | 4-bromonitrobenzene | 2 mmol, 404 mg | BrC1=CC=C(C=C1)[N+](=O)[O-] | C6H4BrNO2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.2 mmol, 1 M, 2.2 ml | O1CCCC1 | C4H8O
product | 2-(4-nitro-phenyl)-malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)C1=CC=C(C=C1)[N+](=O)[O-])=O | C13H15NO6
